US06716843B2
(S)-N-[4-Amino-5-oxo 5-(1-pyrrolidinyl)-pentyl]-butanesulphonamide Hydrochloride
Starting from (S)-N5-(benzyloxycarbonyl)-N2-(tert-butyloxycarbonyl)-ornithine, butanesulphonyl chloride and pyrrolidine, the expected product is obtained according to the procedure described in Example 3.

reactant | (S)-N5-(benzyloxycarbonyl)-N2-(tert-butyloxycarbonyl)-ornithine | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](NC(=O)OC(C)(C)C)C(=O)O | C18H26N2O6
reactant | butanesulphonyl chloride | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | (S)-N-[4-Amino-5-oxo 5-(1-pyrrolidinyl)-pentyl]-butanesulphonamide Hydrochloride | Cl.N[C@@H](CCCNS(=O)(=O)CCCC)C(N1CCCC1)=O | InChI=1S/C13H27N3O3S.ClH/c1-2-3-11-20(18,19)15-8-6-7-12(14)13(17)16-9-4-5-10-16;/h12,15H,2-11,14H2,1H3;1H/t12-;/m0./s1
